US08980875B2
In a 25 ml one-necked flask, there is dissolved 0.320 g (2.023 mmol) of 1-methyl-4-phenylimidazole, which was obtained according to P. Benjes et al., Heterocycles (1994), 37(2), 735-38, in 10 ml of toluene and then 0.36 ml (3.035 mmol) of benzyl bromide is added. After 5 days of heating under reflux, the reaction medium is concentrated under reduced pressure. The residue is taken up in 50 ml of diisopropyl ether. The precipitate formed is drained, washed twice with 5 ml of diisopropyl ether, and then dried under reduced pressure. 0.500 g (90%) of 3-benzyl-1-methyl-4-phenylimidazolium bromide is thus obtained in the form of a beige-grey solid whose characteristics are the following:

reactant | 1-methyl-4-phenylimidazole | 2.023 mmol, 0.320 g | CN1C=NC(=C1)C1=CC=CC=C1 | C10H10N2
reactant | benzyl bromide | 3.035 mmol, 0.36 ml | C(C1=CC=CC=C1)Br | C7H7Br
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 3-benzyl-1-methyl-4-phenylimidazolium bromide | 0.500 g, 90% | [Br-].C(C1=CC=CC=C1)N1C=[N+](C=C1C1=CC=CC=C1)C | InChI=1S/C17H17N2.BrH/c1-18-13-17(16-10-6-3-7-11-16)19(14-18)12-15-8-4-2-5-9-15;/h2-11,13-14H,12H2,1H3;1H/q+1;/p-1
